US04156000
5-Ethyl-4,5-dihydro-6H-cyclopenta[b]thiophene-2-carboxaldehyde (Formula VIII, R1 =ethyl)
115 cm3 of phosphorus oxychloride and 155 cm3 of N-methylformanilide are stirred for 30 minutes at ambient temperature. 228 g of 5-ethyl-4,5-dihydro-6H-cyclopenta[b]thiophene, prepared as in Example 5, are added dropwise to this complex whilst the temperature is maintained at 30° C., if necessary by cooling with iced water. After the end of the addition, the reaction mixture is stirred for a further 6 hours at ambient temperature and is then poured carefully on to a mixture of water and ice. The organic products are extracted with ether. The extract is washed with water until neutral and then dried over sodium sulphate. The ether is evaporated and the residue obtained (290 g) is distilled in vacuo. This gives 205 g of 5-ethyl-4,5-dihydro-6H-cyclopenta[b]thiophene-2-carboxaldehyde as a liquid, b.p. 112°-115° C./0.6 mm Hg.

reactant | phosphorus oxychloride | 115 cm3 | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N-methylformanilide | 155 cm3 | CN(C1=CC=CC=C1)C=O | C8H9NO
reactant | 5-ethyl-4,5-dihydro-6H-cyclopenta[b]thiophene | 228 g | C(C)C1CC2=C(SC=C2)C1 | C9H12S
solvent | water | O | H2O
product | 5-Ethyl-4,5-dihydro-6H-cyclopenta[b]thiophene-2-carboxaldehyde | C(C)C1CC2=C(SC(=C2)C=O)C1 | C10H12OS
